US05179211
226 g (2 mol) of phenylhy-drazine (95.7% pure) were initially introduced at 90° C. in a solution of 5 mol of sodium hydrogen sulphate in 1900 ml of water. 225 ml (2.1 mol) of methyl isopropyl ketone were added dropwise in the course of 30 min. The mixture was stirred for 3 h at 90° to 100° C. After cooling, the batch was neutralised and the organic phase was separated off and distilled. 299.3 g of 97.5% pure 2,3,3-trimethylindolenine were obtained Yield: 91.6% of the theoretical yield.

reactant | phenylhy-drazine | 2 mol, 226 g | C1(=CC=CC=C1)NN | C6H8N2
reactant | sodium hydrogen sulphate | 5 mol | S(=O)(=O)(O)[O-].[Na+]
reactant | methyl isopropyl ketone | 2.1 mol, 225 ml | C(C)(C)C(=O)C | C5H10O
solvent | water | 1900 ml | O | H2O
product | 2,3,3-trimethylindolenine | 299.3 g, 97.5% | CC1=NC2=CC=CC=C2C1(C)C | C11H13N
